US07618985B2
To a solution of (S)-3-(1-amino-isoquinolin-6-yloxy)piperidin-1-carboxylic acid tert-butyl ester (380 mg, 1.11 mmol) and triethylamine (1.5 ml, 11.1 mmol) in anhydrous tetraydrofuran (1.5 ml) was added phthaloyl dichloride (170 μL, 1.16 mmol). The mixture was stirred at ambient temperature for 2 h and then poured into quickly stirring water. The mixture was extracted with dichloromethane (3×50 ml) and concentrated in vacuo to give a residue. Flash chromatography of the residue on silica (eluent: 0-100% ethyl acetate in heptane) gave (S)-3-[1-(1,3-dioxo-1,3-dihydroisoindol-2-yl)isoquinolin-6-yloxy]piperidine-1-carboxylic acid tert-butyl ester (390 mg) E1l-MS: m/z=474.3 [M+H]+.

reactant | (S)-3-(1-amino-isoquinolin-6-yloxy)piperidin-1-carboxylic acid tert-butyl ester | 1.11 mmol, 380 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C=CN=C(C2=CC1)N | C19H25N3O3
reactant | triethylamine | 11.1 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | phthaloyl dichloride | 1.16 mmol, 170 μL | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
solvent | water | O | H2O
product | (S)-3-[1-(1,3-dioxo-1,3-dihydroisoindol-2-yl)isoquinolin-6-yloxy]piperidine-1-carboxylic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C=CN=C(C2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C27H27N3O5
